data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2723,3024,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[O+:23][C-:24]([C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[C:24]([C:25]([CH3:26])=[O:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[O:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,19.66922494411518,-19.95567256587797
3854,4410,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]2([CH3:17])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[O:20][C:18]2=[O:19],water,298.15,26.24433989625709,-4.517861020898944
380,412,[CH3:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([CH3:17])[o:18][c:19]1=[O:20].[CH3:1][O:2][C:3](=[O:4])/[CH:5]=[CH:6]/[C:7](=[O:8])[O:9][CH3:10]>>[CH3:1][O:2][C:3](=[O:4])[C@H:5]1[C@H:6]([C:7](=[O:8])[O:9][CH3:10])[C:14]2([C:12]([CH3:11])=[O:13])[O:15][C:16]1([CH3:17])[O:18][C:19]2=[O:20],water,298.15,20.37832749300031,-11.154477566989572
616,676,[CH3:18][N-:19][N+:20]#[C:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:21]([C:22]#[N:23])=[N:20][N:19]3[CH3:18],water,298.15,13.701727496222114,-61.58704860710008
3765,4313,[CH3:10][C-:11]([CH3:12])[NH+:13]=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])([CH3:12])[NH:13][CH:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,19.0470189892924,-18.90612779465325
3896,4456,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[CH:13]=[O+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[O:14][CH:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,3.754714957391052,-35.8157067054315
399,433,[CH3:13][CH-:14][O+:15]=[CH:16][C:17](=[O:18])[NH:19][CH3:20].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:14]([CH3:13])[O:15][CH:16]3[C:17](=[O:18])[NH:19][CH3:20],water,298.15,6.83465330749898,-81.56920597594696
4217,4823,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([C:12]([CH3:13])=[O:14])[N+:15]([CH3:16])=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[N:15]([CH3:16])[C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:12]([CH3:13])=[O:14],water,298.15,37.720387437004966,-5.203605138620249
1604,1773,[CH3:14][n+:15]1[c:16]([C:17]#[N:18])[o:19][c:20](=[O:21])[c-:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:16]1([C:17]#[N:18])[N:15]([CH3:14])[C:22]2([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[C:20](=[O:21])[O:19]1,water,298.15,31.552713908302984,5.523876438041191
2162,2398,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14](=[O:15])[O:16][CH3:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14](=[O:15])[O:16][CH3:17])[N:18]([CH3:19])[C:20]3([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,41.26138419945456,-27.789141355916023
2996,3348,[CH3:10][N-:11][N+:12]#[N:13].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:11]([CH3:10])[N:12]=[N:13]1,water,298.15,32.771872329213025,-4.380248829426779
3206,3620,[CH3:10][c-:11]1[o+:12][n:13][o:14][c:15]1=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:13]2[O:12][C:11]1([CH3:10])[C:15](=[O:16])[O:14]2,water,298.15,17.16886184387312,-16.475741518896054
